US04058543
Two moles dibutyl thiomalate, 1 mole ethylene glycol, and 3 g tetrabutyl titanate catalyst were stirred and heated for 3 hours at 125° C. Vacuum was then applied, and volatiles stripped off to 135° C and 18 mm, to give butyl ethylene thiomalate having the following properties:

reactant | dibutyl thiomalate | Two moles | C(C(S)CC(=O)OCCCC)(=O)OCCCC | C12H22O4S
reactant | ethylene glycol | 1 mole | C(CO)O | C2H6O2
catalyst | tetrabutyl titanate | 3 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | butyl ethylene thiomalate | C(C(S)CC(=O)O)(=O)O.C(CCC)C=C | InChI=1S/C6H12.C4H6O4S/c1-3-5-6-4-2;5-3(6)1-2(9)4(7)8/h3H,1,4-6H2,2H3;2,9H,1H2,(H,5,6)(H,7,8)
